US05663179
N-Benzyl-N-methyl-2-(4-nitrophenoxy)acetamide
MP 95°-96°. Prepared from (4-nitrophenoxy) acetic acid and N-methylbenzylamine according to the method used in Intermediate 34(a) in EP-A-494623.

reactant | (4-nitrophenoxy) acetic acid | [N+](=O)([O-])C1=CC=C(OCC(=O)O)C=C1 | C8H7NO5
reactant | N-methylbenzylamine | CNCC1=CC=CC=C1 | C8H11N
product | N-Benzyl-N-methyl-2-(4-nitrophenoxy)acetamide | C(C1=CC=CC=C1)N(C(COC1=CC=C(C=C1)[N+](=O)[O-])=O)C | C16H16N2O4
